US05670505
To an ice-cooled mixture of (3R)-1-benzyl-3-(1H-indol-3-yl-methyl)piperazine (305 mg) and potassium carbonate (207 mg) in dimethylformamide (1 ml) was added 3,5-dichlorobenzoyl chloride (210 mg). The mixture was stirred at room temperature for 1 hour. Ethyl acetate and water were added. The organic layer was washed successively with aqueous sodium bicarbonate solution and brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was dissolved in ethyl ether. After insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure and the residue was triturated with diisopropyl ether, collected by filtration and dried to give (2R)-4-benzyl-1-(3,5-dichlorobenzoyl)-2-(1H-indol-3-yl-methyl)piperazine.

reactant | (3R)-1-benzyl-3-(1H-indol-3-yl-methyl)piperazine | 305 mg | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CNC2=CC=CC=C12 | C20H23N3
reactant | potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichlorobenzoyl chloride | 210 mg | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2R)-4-benzyl-1-(3,5-dichlorobenzoyl)-2-(1H-indol-3-yl-methyl)piperazine | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)Cl)Cl)=O)CC1=CNC2=CC=CC=C12 | C27H25Cl2N3O
